US03965176
A. N1 -Methyl-N2 -(4-bromo-3-trifluoromethylphenyl)-2-acetoxy isobutyramidine
Over a five minute period, add a solution of 17.5 g. (0.10 moles) of triethyloxonium fluoborate in 50 ml. of methylene chloride to a mixture of 15.9 g. (0.10 moles) of N-methyl-2-acetoxyisobutyramide in 200 ml. of dry methylene chloride at 0°-5°C. Allow to warm to room temperature and stir for sixteen hours. Remove the solvent in vacuo and obtain the crude product of this reaction as its fluoborate salt. Dissolve the crude fluoborate salt in 150 ml. of anhydrous ethanol, add 24.0 g. (0.10 moles) of 4-bromo-3-trifluoromethylaniline and stir for three days. Remove the solvent in vacuo and partition the residue between ether and saturated aqueous sodium bicarbonate solution. Retain the ether solution, dry it over sodium sulfate and precipitate the product of this reaction as its hydrochloride salt, by adding 0.10 moles of ethereal hydrogen chloride (25 ml. of a 4.0N solution).

reactant | triethyloxonium fluoborate | 0.10 moles | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | N-methyl-2-acetoxyisobutyramide | 0.10 moles | CNC(C(C)(C)OC(C)=O)=O | C7H13NO3
reactant | fluoborate | [B-](F)(F)(F)F
reactant | 4-bromo-3-trifluoromethylaniline | 0.10 moles | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | hydrogen chloride | 0.10 moles | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N1 -Methyl-N2 -(4-bromo-3-trifluoromethylphenyl)-2-acetoxy isobutyramidine | CNC(C(C)(C)OC(C)=O)=NC1=CC(=C(C=C1)Br)C(F)(F)F | C14H16BrF3N2O2
